US07728029B2
Copper(I) chloride (2.500 g, 25.25 mmol) was suspended in 7.0 mL cold (ice/acetone bath) anhydrous acetonitrile. t-Butyl nitrite (5.75 mL, 90%, 43.56 mmol) was added, followed by a suspension of 5-amino-1-cyclohexyl-1H-pyrazole-4-carboxylic acid ethyl ester (4.408 g, 18.58 mmol) in 27.0 mL acetonitrile. The mixture was stirred at room temperature for 45 minutes and then at 70° C. for 1.25 hour. The mixture was cooled to room temperature, slowly added to 6N HCl (17.5 mL) and then extracted with methylene chloride. The organic phase was washed sequentially with water and brine. The aqueous phases were back extracted with a second portion of methylene chloride. The two organic phases were combined, dried over sodium sulfate and concentrated in vacuo. The crude residue was chromatographed by flash chromatography eluting with a gradient of 10-50% ethyl acetate/hexanes to give 5-chloro-1-cyclohexyl-1H-pyrazole-4-carboxylic acid ethyl ester (1.98 g; 42%). Mass spectrum: m/z: 257.3 (M+H).

reactant | t-Butyl nitrite | 43.56 mmol, 5.75 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-1-cyclohexyl-1H-pyrazole-4-carboxylic acid ethyl ester | 18.58 mmol, 4.408 g | C(C)OC(=O)C=1C=NN(C1N)C1CCCCC1 | C12H19N3O2
reactant | HCl | 6N, 17.5 mL | Cl | ClH
solvent | acetonitrile | 27.0 mL | C(C)#N | C2H3N
catalyst | Copper(I) chloride | 25.25 mmol, 2.500 g | [Cu]Cl
product | 5-chloro-1-cyclohexyl-1H-pyrazole-4-carboxylic acid ethyl ester | 1.98 g, 42% | C(C)OC(=O)C=1C=NN(C1Cl)C1CCCCC1 | C12H17ClN2O2
